US06794397B2
2,5-Dimethyl-N-(4-ethoxy-2-nitrophenyl)-3-furancarboxamide
The title compound was prepared from 2,5-dimethyl-3-furoic acid and 4-ethoxy-2-nitroaniline as an orange solid as described in Example 15. 1H NMR (CDCl3): 10.59 (s, 1H), 8.83 (d, J=9.0, 1H), 7.70 (d, J=3.0, 1H), 7.27-7.25 (m, 1H), 6.24 (s, 1H), 4.08 (q, J=6.9, 2H), 2.62 (s, 3H), 2.30 (s, 3H), 1.45 (t, J=6.9, 3H).

reactant | 2,5-dimethyl-3-furoic acid | CC=1OC(=CC1C(=O)O)C | C7H8O3
reactant | 4-ethoxy-2-nitroaniline | C(C)OC1=CC(=C(N)C=C1)[N+](=O)[O-] | C8H10N2O3
product | 2,5-Dimethyl-N-(4-ethoxy-2-nitrophenyl)-3-furancarboxamide | CC=1OC(=CC1C(=O)NC1=C(C=C(C=C1)OCC)[N+](=O)[O-])C | C15H16N2O5
